US04766212
Cis-4-Ethyl-3,4,4a,5,6,11b-Hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine
A solution of 0.01M of cis-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine and 0.011M of triethylamine in 25 ml of methylene chloride was cooled in ice and treated dropwise with 0.01M of acetyl chloride in 10 ml of methylene chloride. After stirring at room temperature overnight, the solution was extracted with dilute hydrochloric acid and dried over magnesium sulfate. Evaporation of the solvent left an oil which was dissolved in 10 ml of dry tetrahydrofuran and this solution added dropwise to a suspension of 0.01M of lithium aluminum hydride in 25 ml of tetrahydrofuran. After refluxing five hours, the mixture was cooled in ice and decomposed with 15% sodium hydroxide. After stirring overnight, the solids were filtered and the solvent removed from the filtrate. Kugelrohr distillation of the residue at 110°-116° C./0.2 mm gave the title compound as an oil.

reactant | cis-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine | 0.01M | O1[C@@H]2[C@H](NCC1)CCOC1=C2C=CC=C1 | C12H15NO2
reactant | triethylamine | 0.011M | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.01M | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Cis-4-Ethyl-3,4,4a,5,6,11b-Hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine | C(C)N1[C@H]2[C@@H](OCC1)C1=C(OCC2)C=CC=C1 | C14H19NO2
